US06514974B2
77.2) 2-Benzoyl-4-(4-chloroanilino)-1,2-dihydrophthalazine-1-carbonitrile
Under N2 atmosphere, first 164 mg (1.2 mmol) anhydrous aluminium chloride is added to 12.6 g (49.3 mmol) 1-(4-chloroanilino)phthalazine in 90 ml dichloromethane, followed by 12.3 ml (98.6 mmol) trimethylsilyl cyanide. Finally, 11.5 ml (98.6 mmol) benzoyl chloride is added under ice cooling and stirred for 3 h at RT. The suspension is poured onto 0.6 ml water, filtered off, washed with water, and dried. Mixing in 150 ml boiling ethanol yields pure title compound: m.p.: 201-202° C.; Anal. calc.(C22H15N4ClO) C, 68.31%; H, 3.91%; N, 14.48%, Cl, 9.16%; found C, 68.03%; H, 3.89%; N, 14.22%; Cl, 9.42%.

reactant | aluminium chloride | 1.2 mmol, 164 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-(4-chloroanilino)phthalazine | 49.3 mmol, 12.6 g | ClC1=CC=C(NC2=NN=CC3=CC=CC=C23)C=C1 | C14H10ClN3
reactant | trimethylsilyl cyanide | 98.6 mmol, 12.3 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | benzoyl chloride | 98.6 mmol, 11.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
solvent | water | 0.6 ml | O | H2O
product | 2-Benzoyl-4-(4-chloroanilino)-1,2-dihydrophthalazine-1-carbonitrile | C(C1=CC=CC=C1)(=O)N1C(C2=CC=CC=C2C(=N1)NC1=CC=C(C=C1)Cl)C#N | C22H15ClN4O
